US04758577
0.86 gram (3.62 millimoles) of 3,4,5-trimethoxycinnamic acid and 16.3 grams (137 millimoles) of thionyl chloride were heated together at reflux temperature for 45 minutes to obtain 3,4,5-trimethoxycinnamoyl chloride. The reaction mixture was subjected to reduced pressure to vaporize excess thionyl chloride and to recover the acid chloride as residue. The acid chloride was purified by repeated dissolution in benzene and vaporizing the volatile matter. The purified acid chloride residue was dissolved in 15 milliliters of dry methylene chloride and the solution cooled to 0° C. To the solution was added a solution of 4-(5H-dibenzo[a,d]cyclohepten-5-yl)piperidine and triethylamine in 15 milliliters of methylene chloride. The resulting mixture was allowed to warm to room temperature and then stirred overnight. As the end of this time, the mixture was diluted with methylene chloride and washed successively with 2N hydrochloric acid, aqueous sodium bicarbonate and brine and thereafter dried. The dried solution was subject to reduced pressure to remove the solvent and to obtain 1.84 grams of 4-(5H-dibenzo-[a,d]cyclohepten-5-yl) 1-(3,4,5-trimethoxyphenyl)prop-2-enoyl)piperidine as a light brown foamy solid. The latter was flash chromatographed on 80 grams of silica gel employing 40/60 ethyl acetate/hexane as eluant to obtain 1.06 grams of the product as an oil.

reactant | 3,4,5-trimethoxycinnamic acid | 3.62 millimoles, 0.86 gram | COC=1C=C(C=CC(=O)O)C=C(C1OC)OC | C12H14O5
reactant | thionyl chloride | 137 millimoles, 16.3 grams | S(=O)(Cl)Cl | Cl2OS
product | 3,4,5-trimethoxycinnamoyl chloride | COC=1C=C(C=CC(=O)Cl)C=C(C1OC)OC | C12H13ClO4
